US05849736
Part A. Methyl (E)-5-phenyl-2-pentenoate
A solution of hydrocinnamaldehyde (13.42 g, 0.1 mol) and methyl(triphenylphosphoranylidene)acetate (33.44 g, 0.1 mol) in THF was stirred at reflux for 20 hours. The reaction mixture was concentrated under vacuum and the residue was purified by flash chromatography using hexane:EtOAc::9:1. The desired product was obtained as a clear, pale yellow oil (8.0 g, 0.042 mol, 42%); 1H NMR (300 MHz, CDCl3) δ 7.3-7.2 (m, 2H), 7.2-7.1 (m, 3H), 7.1-6.9 (m, 1H), 5.85 (d, 1H, J=5.8 Hz), 3.75 (s, 3H), 2.8 (t, 2H, J=7.7 Hz), 2.55 (q, 2H, J=7.4 Hz); MS (NH3 -DCI) 191 (M+H)+.

reactant | hydrocinnamaldehyde | 0.1 mol, 13.42 g | C(CCC1=CC=CC=C1)=O | C9H10O
reactant | methyl(triphenylphosphoranylidene)acetate | 0.1 mol, 33.44 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | THF | C1CCOC1 | C4H8O
product | Methyl (E)-5-phenyl-2-pentenoate | C1(=CC=CC=C1)CC/C=C/C(=O)OC | C12H14O2
